US08058269B2
Preparation of rac-[[6-Chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-(3-chloro-phenyl)-amino]-acetic acid
At room temperature, (3-Chloro-phenylamino)-acetic acid (1.25 g, 6.8 mmol) was dissolved in 10 ml 1N K2CO3 aqueous solution, then 3-Bromo-6-chloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one (2.5 g, 6.8 mmol) and 10 ml 1,4-dioxane were added slowly. After stirred for about 3 h, the solution was concentrated and the water layer was extracted with CH2Cl2. The organic layer was dried, concentrated to obtain the crude product and the crude product was purified by chromatography to obtain 1.2 g yellow solid rac-[[6-Chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-(3-chloro-phenyl)-amino]-acetic acid.

reactant | (3-Chloro-phenylamino)-acetic acid | 6.8 mmol, 1.25 g | ClC=1C=C(C=CC1)NCC(=O)O | C8H8ClNO2
reactant | 3-Bromo-6-chloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one | 6.8 mmol, 2.5 g | BrC1(C(NC2=CC(=CC=C12)Cl)=O)CC1=CC(=CC=C1)Cl | C15H10BrCl2NO
reactant | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | K2CO3 | 1N, 10 ml | C(=O)([O-])[O-].[K+].[K+]
product | rac-[[6-Chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-(3-chloro-phenyl)-amino]-acetic acid | 1.2 g | ClC1=CC=C2C(C(NC2=C1)=O)(CC1=CC(=CC=C1)Cl)N(C1=CC(=CC=C1)Cl)CC(=O)O | C23H17Cl3N2O3
